US07723331B2
b) 1-{6-[(1-Methylpiperidin-4-yl)oxy]pyridin-2-yl}methanamine
6-[(1-Methylpiperidin-4-yl)oxy]pyridine-2-carbonitrile (1.62 g, 7.46 mmol, from step a above) was dissolved in 150 mL of ammonia saturated MeOH and hydrogenation was performed using a Raney-Ni 30×4 mm CatCart (H-Cube, 50 bar, 50° C., 1 mL/min). The mixture was evaporated and was pure enough to use directly in the next step below. Yield: 1.62 g (98%). 1H NMR (500 MHz, CDCl3) δ 7.50 (m, 1H), 6.75 (d, 1H), 6.56 (d, 1H), 5.11 (m, 1H), 3.82 (s, 2H), 2.74 (m, 2H), 2.43-2.30 (m, 5H, thereof a singlet at 2.34), 2.07 (m, 2H), 1.87 (m, 2H).

reactant | 6-[(1-Methylpiperidin-4-yl)oxy]pyridine-2-carbonitrile | CN1CCC(CC1)OC1=CC=CC(=N1)C#N | C12H15N3O
solvent | ammonia | 150 mL | N | H3N
catalyst | Ni | [Ni] | Ni
product | 1-{6-[(1-Methylpiperidin-4-yl)oxy]pyridin-2-yl}methanamine | CN1CCC(CC1)OC1=CC=CC(=N1)CN | C12H19N3O
